US08207347B2
2,4-Dimethyl-6-oxo-1-phenyl-1,6-dihydro-pyridine-3-carboxylic acid
A mixture of 2,4-dimethyl-6-oxo-1-phenyl-1,6-dihydro-pyridine-3-carboxylic acid ethyl ester (108 mg, 0.398 mmol) in methanol (0.8 mL) and 32% aq. NaOH (0.25 mL) was shaken at 60° for 22 hrs (after 5 hours only 70% conversion was observed). The reaction mixture was quenched with water (5 ml), extracted with ether (3×2 ml), and acidified 3M HCl (1 mL, pH=0). The title compound was separated by filtration to give 52.1 mg of colorless solid, yield 54%. LC-MS (m/z) 244.5 (MH+); tR=0.54. 1H NMR (600 MHz, DMSO-d6): 1.94 (s, 3H, 2-Me), 2.19 (d, J=0.9 Hz, 3H, 4-Me), 6.29 (s, 1H, 5-H), 7.25 (dm, J=7.7 Hz, J<1.5 Hz, 2H, two ortho-H of Ph), 7.47 (tt, J=7.4 Hz, J=1.2 Hz, 1H, para-H of Ph), 7.53 (tm, J=7.5 Hz, J<1.7 Hz, 2H, two meta-H of Ph), 13.26 (br. s, 1H, CO2H).

reactant | 2,4-dimethyl-6-oxo-1-phenyl-1,6-dihydro-pyridine-3-carboxylic acid ethyl ester | 0.398 mmol, 108 mg | C(C)OC(=O)C1=C(N(C(C=C1C)=O)C1=CC=CC=C1)C | C16H17NO3
solvent | methanol | 0.8 mL | CO | CH4O
solvent | NaOH | 0.25 mL | [OH-].[Na+]
product | 2,4-Dimethyl-6-oxo-1-phenyl-1,6-dihydro-pyridine-3-carboxylic acid | 52.1 mg, yield 54% | CC=1N(C(C=C(C1C(=O)O)C)=O)C1=CC=CC=C1 | C14H13NO3
